US08115012B2
Preparation of isopropyl 2-isopropoxymethylene-4,4,4-trifluoro-3-oxobutyrate
The preparation was carried out analogously to preparation example 1 using isopropyl 4,4,4-trifluoro-3-oxobutyrate and triisopropyl orthoformate.

reactant | isopropyl 4,4,4-trifluoro-3-oxobutyrate | FC(C(CC(=O)OC(C)C)=O)(F)F | C7H9F3O3
reactant | triisopropyl orthoformate | C(OC(C)C)(OC(C)C)OC(C)C | C10H22O3
product | isopropyl 2-isopropoxymethylene-4,4,4-trifluoro-3-oxobutyrate | C(C)(C)OC=C(C(=O)OC(C)C)C(C(F)(F)F)=O | C11H15F3O4
